US05817693
Methyl (1RS,2RS,3RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylate (0.14 g, 0.29 mmol) in dry DMF (1 ml) was added to NaH (9 mg, 0.38 mmol) in a small volume of dry DMF. The mixture was stirred at ambient temperature for 20 min. then 3-bromopropan-1-ol (37 μl, 0.41 mmol) was added. After stirring for 1 h. the product was partitioned between 3M aqueous HCl and ethyl acetate. The organic layer was washed with water then brine, then dried (MgSO4 anhyd.) filtered and evaporated to give an oil. The product was purified by column chromatography to provide methyl (1RS,2RS,3RS)-3-[2-(3-Hydroxyprop-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (0.1 g, 65%)(1 H-NMR indicated some epimerization had occurred at C-2). This material was used without further purification. Methyl(1RS,2RS,3RS) -3-[2-(3-Hydroxyprop-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylate (0.04 g, 0.075 mmol) was dissolved in methanol (2 ml) and aqueous potassium hydroxide added (2M, 0.22 ml, 0.44 mmol). The mixture was stirred under reflux overnight then cooled, diluted with water, acidified with 3M aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with water and brine, dried (MgSO4 anhydrous), filtered and evaporated to give an oil. The product was purified by chromatography on silica-gel (eluant: ethyl acetate/hexane/3% acetic acid) to give 12 mg of free acid which was converted to its dicyclohexylamine salt. m.p. 110°-112° C.

reactant | Methyl (1RS,2RS,3RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylate | 0.29 mmol, 0.14 g | OC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC | C28H28O7
reactant | NaH | 0.38 mmol, 9 mg | [H-].[Na+]
reactant | 3-bromopropan-1-ol | 0.41 mmol, 37 μl | BrCCCO | C3H7BrO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | methyl (1RS,2RS,3RS)-3-[2-(3-Hydroxyprop-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.1 g, 65% | OCCCOC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC | C31H34O8
